US09289430B2
tert-butyl 3-(3-(2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-ylcarbamoyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propanoate
Into a 100-mL round bottom flask, was placed a solution of 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid (167 mg, 0.56 mmol, 1.10 equiv) in dichloromethane (10 mL), EDC.HCl (148 mg, 0.77 mmol, 1.50 equiv), 4-dimethylaminopyridine (95 mg, 0.77 mmol, 1.50 equiv), and 2-amino-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-5-(piperidin-1-yl)benzamide (200 mg, 0.51 mmol, 1.00 equiv). The resulting solution was stirred for 4 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (10:1) to yield 150 mg (44%) of product as a green solid.

reactant | 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid | 0.56 mmol, 167 mg, 1.10 equiv | C(C)(C)(C)OC(CCSCC=1C=C(C(=O)O)C=CC1)=O | C15H20O4S
reactant | EDC.HCl | 0.77 mmol, 148 mg, 1.50 equiv | CCN=C=NCCCN(C)C.Cl
reactant | 2-amino-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-5-(piperidin-1-yl)benzamide | 0.51 mmol, 200 mg, 1.00 equiv | NC1=C(C(=O)NC2=NN(C=C2)C2=CC(=C(C=C2)C)C)C=C(C=C1)N1CCCCC1 | C23H27N5O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.77 mmol, 95 mg, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 3-(3-(2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-ylcarbamoyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propanoate | 150 mg, 44% | CC=1C=C(C=CC1C)N1N=C(C=C1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1 | C38H45N5O4S
